### PR TITLE
[Merged by Bors] - feat (LinearAlgebra/PerfectPairing) : Modules in a perfect pairing are reflexive

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines the linear equivalences with dual modules given by a perfect pairing, and shows that the modules are reflexive.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 1]
```diff
@@ -57,7 +59,61 @@ protected def flip : PerfectPairing R N M where
...
+@[simps]
+noncomputable def toDualLeft : M ≃ₗ[R] Dual R N where
+  toFun := p.toLin
+  map_add' := LinearMap.map_add p.toLin
+  map_smul' := LinearMapClass.map_smul p.toLin
+  invFun f := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose f
+  left_inv := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose_spec.1
+  right_inv := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose_spec.2
+
+theorem toDualLeft_invFun (f : Dual R N) (x : N) : p.toLin (p.toDualLeft.invFun f) x = f x := by
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:72]:
```suggestion
theorem toDualLeft_invFun (f : Dual R N) (x : N) : p ((p.toDualLeft).symm f) x = f x := by
```
We usually don't use `invFun` because it is merely a function and not a linear map / linear equiv. 
Maybe you can call it `apply_toDualLeft_symm_apply` etc.

You might also want to make it a simp lemma.

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 2]
```diff
@@ -57,7 +59,61 @@ protected def flip : PerfectPairing R N M where
 
 @[simp] lemma flip_flip : p.flip.flip = p := rfl
 
--- TODO `M` and `N` are both reflexive
+/-- The linear equivalence from `M` to `Dual R N` induced by a perfect pairing. -/
+@[simps]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:63]: You might want to double check what it generates using `simps!`. Chances are `toDualLeft_symm_apply` is not desired.

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 3]
```diff
@@ -57,7 +59,61 @@ protected def flip : PerfectPairing R N M where
...
+noncomputable def toDualLeft : M ≃ₗ[R] Dual R N where
+  toFun := p.toLin
+  map_add' := LinearMap.map_add p.toLin
+  map_smul' := LinearMapClass.map_smul p.toLin
+  invFun f := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose f
+  left_inv := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose_spec.1
+  right_inv := (bijective_iff_has_inverse.mp p.bijectiveLeft).choose_spec.2
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:70]: There is also `LinearEquiv.ofBijective`.

File: Mathlib/LinearAlgebra/PerfectPairing.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:72]: similarly below

**Review by erdOne — COMMENTED** [review]
Some preliminary comments.

File: Mathlib/LinearAlgebra/PerfectPairing.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/PerfectPairing.lean]: Thank you, this made the definition a lot shorter!

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 4]
```diff
@@ -57,7 +59,63 @@ protected def flip : PerfectPairing R N M where
...
+    (p.toDualLeft x) (p.toDualRight.symm f) = f x := by
+  rw [@toDualLeft_apply]
+  exact apply_apply_toDualRight_symm p x f
+
+theorem toDualRight_symm_toDualLeft (x : M) :
+    p.toDualRight.symm.dualMap (p.toDualLeft x) = Dual.eval R M x := by
+  ext f
+  simp only [LinearEquiv.dualMap_apply, Dual.eval_apply]
+  exact toDualLeft_of_toDualRight_symm p x f
+
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:101]: If you have a lemma `p.toDualRight.symm.dualMap.comp p.toDualLeft = Dual.eval R M`, the proof of  `reflexive_left` can be reduced to `rw [<- this]; exact p.bijective_toDualRight_symm_toDualLeft`.

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 5]
```diff
@@ -57,7 +59,63 @@ protected def flip : PerfectPairing R N M where
...
 @[simp] lemma flip_flip : p.flip.flip = p := rfl
 
--- TODO `M` and `N` are both reflexive
+/-- The linear equivalence from `M` to `Dual R N` induced by a perfect pairing. -/
+noncomputable def toDualLeft : M ≃ₗ[R] Dual R N :=
+  LinearEquiv.ofBijective p.toLin p.bijectiveLeft
+
+@[simp]
+theorem toDualLeft_apply (a : M) : p.toDualLeft a = p.toLin a :=
+  rfl
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:68]: Similarly below.

**Comment by erdOne** [comment]
By the way, "Am I following the naming conventions properly?" should not be contained in the commit message. If you want to write something in the message that is only for reviewers and not for future users, you can write it below the `---` in the message. If so, it will be ignored when merged.

File: Mathlib/LinearAlgebra/PerfectPairing.lean (hunk 4 above)
Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:105]: I had tried it earlier, but had given up in the face of a `typeclass instance problem is stuck` error.  Thank you for the extra push.

File: Mathlib/LinearAlgebra/PerfectPairing.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/PerfectPairing.lean]: `coe_toLin` broke some simp proofs in `LinearAlgebrea/RootSystem/Basic`.  I could fix them by globally replacing `p.toLin` with `p.toPerfectPairing` and adding `PerfectPairing.coe_toLin` to some simp arguments.  Is this a good idea?

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 6]
```diff
@@ -57,7 +59,63 @@ protected def flip : PerfectPairing R N M where
...
+  Bijective.comp (LinearEquiv.bijective p.toDualRight.symm.dualMap)
+    (LinearEquiv.bijective p.toDualLeft)
+
+theorem reflexive_left : IsReflexive R M where
+  bijective_dual_eval' := by
+    rw [← p.toDualRight_symm_comp_toDualLeft]
+    exact p.bijective_toDualRight_symm_toDualLeft
+
+theorem reflexive_right : IsReflexive R N :=
+  reflexive_left (p := p.flip)
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:118]:
```suggestion
  p.flip.reflexive_left
```
Does this work?

Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:118]: Yes!

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
